US07910740B2
{2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-acetic acid ethyl ester
The title compound was prepared in analogy to example 1 step e) from 56 mg (0.33 mmol) ethyl 4-chloroacetoacetate and 79 mg (0.3 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea. The crude product was purified through stirring with diethyl ether yielding 115 mg (98%) {2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-acetic acid ethyl ester as an off-white solid. MS ISP (m/e): 373.1 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.68 (s, 1H), 9.26 (s, 1H), 7.83 (s, 1H), 7.65 (s, 1H), 7.46 (d, 1H), 7.22 n(d, 1H), 6.79 (s, 1H), 4.09 (q, 2H), 3.83 (s, 3H), 3.67 (s, 2H), 2.33 (s, 3H), 1.19 (t, 3H).

reactant | ethyl 4-chloroacetoacetate | 0.33 mmol, 56 mg | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.3 mmol, 79 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
product | {2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-acetic acid ethyl ester | C(C)OC(CC=1N=C(SC1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C18H20N4O3S
